US08486952B2
To a mixture of 2-chloro-N-cyclobutyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (165 mg, 0.55 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (135 mg, 0.605 mmol) in NMP (2 mL) was added Conc. H2SO4 (0.041 mL, 0.771 mmol). The mixture was stirred at 97° C. for 20 hours. After cooled down to room temperature, 100 mL of EtOAc was added, washed with saturated NaHCO3/water and water, dried over Na2SO4, and finally removed. The residue was purified via Biotage (12 g, hexanes-80% EtOAc) to give N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-cyclobutyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine (202 mg, 0.394 mmol, 71.6% yield). LC-MS (M+H)+=487.14. 1H NMR (500 MHz, CDCl3) δ ppm 7.92 (1H, d, J=1.8 Hz), 7.51 (1H, d, J=1.2 Hz), 7.28-7.33 (2H, m), 7.18-7.24 (3H, m), 7.13 (1H, s), 7.03 (1H, d, J=8.5 Hz), 7.01 (1H, d, J=1.2 Hz), 6.74 (1H, dd, J=8.5, 2.1 Hz), 4.64-4.80 (2H, m), 4.17-4.23 (1H, m), 3.49 (3H, s), 2.72-2.81 (1H, m), 2.61-2.71 (2H, m), 2.43-2.53 (2H, m), 2.09 (1H, td, J=8.0, 2.3 Hz), 1.92-2.04 (2H, m), 1.70-1.88 (2H, m).

reactant | 2-chloro-N-cyclobutyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.55 mmol, 165 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC2CCC2 | C17H18ClN3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 0.605 mmol, 135 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
reactant | H2SO4 | 0.771 mmol, 0.041 mL | OS(=O)(=O)O | H2O4S
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-cyclobutyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | 0.394 mmol, 202 mg, 71.6% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC2CCC2)OC | C27H27ClN6O
